US07875645B2
2-(2-Fluoro-5-methyl-benzyl)-4,5-dihydro-1H-imidazole was prepared from (2-fluoro-5-methyl-phenyl)-acetonitrile and ethylene diamine in analogy to Example 19 b): light yellow powder; MS (ISP): 193.0 ((M+H)+.).

reactant | (2-fluoro-5-methyl-phenyl)-acetonitrile | FC1=C(C=C(C=C1)C)CC#N | C9H8FN
reactant | ethylene diamine | C(CN)N | C2H8N2
product | 2-(2-Fluoro-5-methyl-benzyl)-4,5-dihydro-1H-imidazole | FC1=C(CC=2NCCN2)C=C(C=C1)C | C11H13FN2
